US06645975B1
5-Isoquinolinecarboxaldehyde
To a solution of n-butyllithium (19.3 mL of 2.5M in hexanes, 48 mmol) in a mixture of ether (80 mL) and THF (80 mL) at −78° C. was added dropwise a solution of bromoisoquinoline (5.0 g, 24 mmol) in THF (10 mL). The reaction mixture was stirred at −78° C. under argon for 30 minutes. Following the general procedures described by Pearson, et al., in J. Heterocycl. Chem., Vol. 6 (2), pp. 243-245 (199), a solution of DMF (3.30 g, 45 mmol) in THF (10 mL) was cooled to −78° C. and quickly added to the isoquinolyllithium solution. The mixture was stirred at −78° C. for 15 minute. Ethanol (20 mL) was added followed by saturated NH4Cl solution. The resulting suspension was warmed to room temperature. The organic layer, combined with the ether extraction layer, was dried over Na2SO4. A pale yellow solid (2.4 g, 15 mmol, 64% yield) was obtained from chromatography (SiO2 Type-H, 50% EtOAc in hexanes) and recrystallization (ethanol): mp 114-116° C.;

reactant | n-butyllithium | 48 mmol, 2.5M, 19.3 mL | C(CCC)[Li]
reactant | bromoisoquinoline | 24 mmol, 5.0 g | BrC1=NC=CC2=CC=CC=C12 | C9H6BrN
reactant | DMF | 45 mmol, 3.30 g | CN(C)C=O | C3H7NO
reactant | isoquinolyllithium | C1(=NC=CC2=CC=CC=C12)[Li]
reactant | NH4Cl | [NH4+].[Cl-]
solvent | ether | 80 mL | CCOCC | C4H10O
solvent | THF | 80 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | ethanol | C(C)O | C2H6O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | Ethanol | 20 mL | C(C)O | C2H6O
product | 5-Isoquinolinecarboxaldehyde | 15 mmol, 2.4 g, 64% yield | C1=NC=CC=2C(=CC=CC12)C=O | C10H7NO
